US04728742
Methallylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid-N-hydroxylimide
34.75 g of hydroxylamine hydrochloride are dissolved in water, and 109 g of methallylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride are added. There are then added dropwise, with stirring, 40 g of 50% aqueous sodium hydroxide solution, and the mixture is refluxed for 1 hour. All volatile components are afterwards distilled off, the residue is taken up in toluene, the precipitated sodium chloride is filtered off, and the toluene is removed in a rotary evaporator (150° C., 2000 Pa). There are thus obtained 98.5 g of a highly viscous liquid (90% of theory), which is not distillable up to 200° C./2.5 Pa, since the product presumably is in the form of a dimer.

reactant | hydroxylamine hydrochloride | 34.75 g | Cl.NO
reactant | methallylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic anhydride | 109 g | C(C(C)=C)C12C3C(C(C=C1)C2)C(=O)OC3=O | C13H14O3
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
solvent | water | O | H2O
product | Methallylbicyclo[2.2.1]hept-5-ene-2,3-dicarboxylic acid-N-hydroxylimide | ON=C(O)C1C2(C=CC(C1C(=O)O)C2)CC(C)=C | C13H17NO4
